US07138425B2
c) 2-(3-Nitro-6-propylaminophenyl)-6-methylbenzoxazole
Prepared by the method of Example 54a), from 2-(3-nitro-6-fluorophenyl)-6-methylbenzoxazole (250 mg, 0.9 mmol) and propylamine (400 μL, 5.0 mmol) the subtitle compound was obtained (262 mg, 94%). 1H NMR (DMSO) δ 9.21(t, 1H), 8.78(d, 1H), 8.19(dd, 1H), 7.70–7.66(m, 2H), 7.25(d, 1H), 7.03(d, 1H), 3.43(q, 2H), 2.47(s, 3H), 1.73(m, 2H), 1.01(t, 3H).

reactant | 2-(3-nitro-6-fluorophenyl)-6-methylbenzoxazole | 0.9 mmol, 250 mg | [N+](=O)([O-])C=1C=C(C(=CC1)F)C=1OC2=C(N1)C=CC(=C2)C | C14H9FN2O3
reactant | propylamine | 5.0 mmol, 400 μL | C(CC)N | C3H9N
product | 2-(3-Nitro-6-propylaminophenyl)-6-methylbenzoxazole | [N+](=O)([O-])C=1C=C(C(=CC1)NCCC)C=1OC2=C(N1)C=CC(=C2)C | C17H17N3O3
